US07446222B2
d) 2-Benzyloxy-5″-butyrylamino-5-trifluoromethyl[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester
A mixture of 2-benzyloxy-5-trifluoromethyl-phenyl-boronic acid (38 mg, 0.13 mmol), 2′-bromo-5-butyrylamino-biphenyl-3-carboxylic acid methyl ester (45 mg, 0.12 mmol), potassium carbonate (138 mg, 1 mmol) and tetrakis(triphenylphosphine)palladium(0) (14 mg, 0.012 mmol) in 1:1 toluene/ethanol (3 ml) was stirred and heated at 90° C. under nitrogen for 2 hours. After cooling the mixture was diluted with diethyl ether and water and the organic phase dried (MgSO4) and evaporated to dryness. The residue was purified using Biotage with ethyl acetate/iso-hexane (1:4) to yield the title compound as a colourless gum (51 mg, 76%).

reactant | 2-benzyloxy-5-trifluoromethyl-phenyl-boronic acid | 0.13 mmol, 38 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C14H12BF3O3
reactant | 2′-bromo-5-butyrylamino-biphenyl-3-carboxylic acid methyl ester | 0.12 mmol, 45 mg | COC(=O)C=1C=C(C=C(C1)NC(CCC)=O)C1=C(C=CC=C1)Br | C18H18BrNO3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 3 ml | C1(=CC=CC=C1)C.C(C)O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Benzyloxy-5″-butyrylamino-5-trifluoromethyl[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 51 mg, 76% | C(C)OC(=O)C=1C=C(C=C(C1)NC(CCC)=O)C=1C(=CC=CC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1 | C33H30F3NO4
